US08877744B2
c) (R)-5-[2,4-Difluoro-5-(6-trifluoromethyl-benzooxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine
In a manner analogous to that described in Example 2c), the ammonolysis of (R)-5-[2,4-difluoro-5-(6-trifluoromethyl-benzooxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione (110 mg, 217 μmol) with ammonia (7M in methanol; 2.14 ml) and tert-butylhydroperoxide (70% in water; 260 μl) yielded the title compound (33 mg, 31% yield). MS (ISP): m/z=490.2 [M+H]+.

reactant | (R)-5-[2,4-difluoro-5-(6-trifluoromethyl-benzooxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 217 μmol, 110 mg | FC1=C(C=C(C(=C1)F)C=1OC2=C(N1)C=CC(=C2)C(F)(F)F)[C@]2(NC(COC(C2(F)F)(C)C)=S)C | C22H17F7N2O2S
reactant | ammonia | 7M, 2.14 ml | N | H3N
solvent | tert-butylhydroperoxide | 260 μl | C(C)(C)(C)OO | C4H10O2
product | (R)-5-[2,4-Difluoro-5-(6-trifluoromethyl-benzooxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine | 33 mg, 31% yield | FC1=C(C=C(C(=C1)F)C=1OC2=C(N1)C=CC(=C2)C(F)(F)F)[C@]2(N=C(COC(C2(F)F)(C)C)N)C | C22H18F7N3O2
